US08017624B2
Step A: tert-Butyl [(7R,8R)-8-(2,4,5-trifluorophenyl)-3-vinyl-6,7,8,9-tetrahydropyrido[3′,4′:4,5]imidazo[1,2-a]pyridine-7-yl]carbamate
An oven dried flask charged with 30 mg (0.066 mmol) of tert-butyl [(7R,8R)-3-chloro-8-(2,4,5-trifluorophenyl)-6,7,8,9-tetrahydropyrido[3′,4′:4,5]imidazo[1,2-a]pyridine-7-yl]carbamate, 0.024 mL (0.079 mmol) of tributyl(vinyl)tin, 23 mg (0.020 mmol) of tetrakis(triphenylphosphine)palladium(0) and 1.5 mL of dry dioxane was put under nitrogen and heated to reflux for 72 h. The reaction mixture was cooled to ambient temperature, filtered through a pad of Celite and the filter cake rinsed with 50 mL of ethyl acetate. The filtrate was evaporated in vacuo and the crude residue was purified directly by reverse phase HPLC (YMC Pro-C18 column, gradient elution, 5% to 90% acetonitrile/water with 0.1% TFA) to afford the title compound as a white foam. LC/MS 445.2 (M+1).

reactant | tert-butyl [(7R,8R)-3-chloro-8-(2,4,5-trifluorophenyl)-6,7,8,9-tetrahydropyrido[3′,4′:4,5]imidazo[1,2-a]pyridine-7-yl]carbamate | 0.066 mmol, 30 mg | ClC1=CC2=C(N=C3N2C[C@@H]([C@H](C3)C3=C(C=C(C(=C3)F)F)F)NC(OC(C)(C)C)=O)C=N1 | C21H20ClF3N4O2
reactant | tributyl(vinyl)tin | 0.079 mmol, 0.024 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.020 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl [(7R,8R)-8-(2,4,5-trifluorophenyl)-3-vinyl-6,7,8,9-tetrahydropyrido[3′,4′:4,5]imidazo[1,2-a]pyridine-7-yl]carbamate | FC1=C(C=C(C(=C1)F)F)[C@H]1CC=2N(C[C@@H]1NC(OC(C)(C)C)=O)C1=C(N2)C=NC(=C1)C=C | C23H23F3N4O2
